US05073644
596 g trichlorosilane (4.4 moles, excess) and 500 g 3,4-dichlorobutene-1 (4 moles) are mixed. 0.4 g Pt(II)-acetyl acetonate are added to 30 ml of this mixture, at which time the temperature gradually rises by itself to 95° C. At this temperature, the remaining trichlorosilane/olefin mixture is added and allowed to react for an additional half hour at 92° C. Excess trichlorosilane and other readily volatile constituents are drawn off in a vacuum. The crude product obtained in this manner (826 g≅79.3% of theory) is subsequently purified by distillation. 705 g 3,4-dichlorobutyl trichlorosilane 67.7% of theory are obtained as the main fraction (see table 1 for composition data).

reactant | trichlorosilane | 4.4 moles, 596 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 3,4-dichlorobutene-1 | 4 moles, 500 g | C=CC(CCl)Cl | C4H6Cl2
product | 3,4-dichlorobutyl trichlorosilane | 705 g, 67.7% | ClC(CC[Si](Cl)(Cl)Cl)CCl | C4H7Cl5Si
